US07700625B2
A solution of 2,4-bis-benzyloxy-5-isopropenyl-benzoic acid (210 mg, 0.56 mmol) and diisopropylethylamine (0.25 mL, 1.4 mmol) in DCM (5 mL) was treated with bromo-tris-pyrrolidino-phosphonium hexafluorophosphate (PyBrOP) (287 mg, 0.62 mmol). After 1 hour a solution of 4-(3-morpholin-4-yl-propoxy)-2,3-dihydro-1H-isoindole (0.56 mmol, assuming a quantitative yield from the preceding step (C18)) in DCM (5 mL) was added. After 4 hours the mixture was diluted with ethyl acetate and washed with water, 1N sodium hydroxide solution and brine. The organic phase was dried (MgSO4) and concentrated to give a residue which was absorbed onto an SCX column. This was washed with 10% methanol/DCM then the product was eluted with 25% 2M methanolic ammonia/DCM) to afford an impure sample of the intermediate (2,4-bis-benzyloxy-5-isopropenyl-phenyl)-[4-(3-morpholin-4-yl-propoxy)-1,3-dihydro-isoindol-2-yl]-methanone.

reactant | 2,4-bis-benzyloxy-5-isopropenyl-benzoic acid | 0.56 mmol, 210 mg | C(C1=CC=CC=C1)OC1=C(C(=O)O)C=C(C(=C1)OCC1=CC=CC=C1)C(=C)C | C24H22O4
reactant | diisopropylethylamine | 1.4 mmol, 0.25 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | bromo-tris-pyrrolidino-phosphonium hexafluorophosphate | 0.62 mmol, 287 mg | F[P-](F)(F)(F)(F)F.Br[P+](N1CCCC1)(N1CCCC1)N1CCCC1
reactant | 4-(3-morpholin-4-yl-propoxy)-2,3-dihydro-1H-isoindole | N1(CCOCC1)CCCOC1=C2CNCC2=CC=C1 | C15H22N2O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2,4-bis-benzyloxy-5-isopropenyl-phenyl)-[4-(3-morpholin-4-yl-propoxy)-1,3-dihydro-isoindol-2-yl]-methanone | quantitative yield | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C(=C)C)C(=O)N1CC2=CC=CC(=C2C1)OCCCN1CCOCC1 | C39H42N2O5
